US07553965B2
b) 3-(4-Amino-butyl)-7,8-dimethoxy-2a,3,4,5-tetrahydro-2H-3-aza-acenaphthylen-1-one dihydro-chloride
[4-(7,8-Dimethoxy-1-oxo-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-butyl]-carbamic acid tert-butyl ester (498 mg, 1.22 mmol) is dissolved in a mixture of CH2Cl2 (10 ml) and ethanol (2 ml) and a solution of 2 N HCl in Et2O is added (6 ml, 12 mmol). A brown precipitate appears, which is collected by filtration (367 mg, 80% yield).

reactant | [4-(7,8-Dimethoxy-1-oxo-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-butyl]-carbamic acid tert-butyl ester | 1.22 mmol, 498 mg | C(C)(C)(C)OC(NCCCCN1C2CC(C=3C(=C(C=C(CC1)C32)OC)OC)=O)=O | C22H32N2O5
reactant | HCl | 2 N | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | Et2O | CCOCC | C4H10O
product | 3-(4-Amino-butyl)-7,8-dimethoxy-2a,3,4,5-tetrahydro-2H-3-aza-acenaphthylen-1-one dihydro-chloride | 80% yield | Cl.Cl.NCCCCN1C2CC(C=3C(=C(C=C(CC1)C32)OC)OC)=O | InChI=1S/C17H24N2O3.2ClH/c1-21-14-9-11-5-8-19(7-4-3-6-18)12-10-13(20)16(15(11)12)17(14)22-2;;/h9,12H,3-8,10,18H2,1-2H3;2*1H
